US04347246
F. 4-Cyclopentyl-9-methoxy-1,4-benzothiazepine-2,5 (3H)-dione
N-(2-mercapto-3-methoxybenzoyl)-N-cyclopentylglycine (14.5 g, 0.0469 m) and triethylamine (4.7 g, 0.0469 m) in methylene chloride (500 ml) were cooled to 0° C., and ethyl chloroformate (5.1 g, 0.0469 m) was added over one minute. The mixture was stirred 2 hours at 0°-10° C., washed (water, then brine), dried (Na2SO4) and concentrated. HPLC purification using hexane/ethyl acetate (1/1) as eluent gave the desired product. Recrystallization from ethyl acetate provided 5.4 g analytically pure material (yield: 35%).

reactant | N-(2-mercapto-3-methoxybenzoyl)-N-cyclopentylglycine | 14.5 g | SC1=C(C(=O)N(CC(=O)O)C2CCCC2)C=CC=C1OC | C15H19NO4S
reactant | triethylamine | 4.7 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 5.1 g | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-Cyclopentyl-9-methoxy-1,4-benzothiazepine-2,5 (3H)-dione | C1(CCCC1)N1CC(SC2=C(C1=O)C=CC=C2OC)=O | C15H17NO3S
